US05233052
Preparation of 2,4-Bis(p-chlorophenyl)-5-(trifluoro methyl)pyrrole-3-carbonitrile
Triethylamine (1.1 g, 0.011 mol) is added dropwise to a mixture of 2-(trifluoromethyl)-4-(4-chlorophenyl)-3-oxazolin-5-one and α-bromo-p-chlorocinnamonitrile in 25 mL of acetonitrile and the mixture is stirred at room temperature for 18 hours. The reaction mixture is poured into 100 mL of water and extracted with two 30 mL portions of ethyl acetate. The combined extracts are washed with 30 mL of water, 30 mL of saturated brine, dried over magnesium sulfate, filtered and the solvent evaporated to leave a brown solid.

reactant | Triethylamine | 0.011 mol, 1.1 g | C(C)N(CC)CC | C6H15N
reactant | 2-(trifluoromethyl)-4-(4-chlorophenyl)-3-oxazolin-5-one | FC(C1OC(C(=N1)C1=CC=C(C=C1)Cl)=O)(F)F | C10H5ClF3NO2
reactant | α-bromo-p-chlorocinnamonitrile | BrC(C#N)=CC1=CC=C(C=C1)Cl | C9H5BrClN
reactant | water | 100 mL | O | H2O
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | 2,4-Bis(p-chlorophenyl)-5-(trifluoro methyl)pyrrole-3-carbonitrile | ClC1=CC=C(C=C1)C=1NC(=C(C1C#N)C1=CC=C(C=C1)Cl)C(F)(F)F | C18H9Cl2F3N2
